US03998834
To a stirred solution of 78 parts of 1-(phenylmethyl)-4-[3-(trifluoromethyl)phenylamino]-4-piperidinecarboxylic acid in 470 parts of dry hexamethylphosphoric triamide are added portionwise 6.3 parts of sodium hydride dispersion 78% (slightly exothermic reaction). After stirring for one hour at room temperature, 29.3 parts of iodomethane are added dropwise. Upon completion, stirring is continued overnight at room temperature. Methylbenzene is added and the whole is washed with water. The organic phase is separated, washed with a sodium hydroxide solution 10% and with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 3% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is converted into the hydrochloride salt in 1,1'-oxybisethane and 2-propanol. After stirring vigorously, the salt is filtered off and crystallized twice from 4-methyl-2-pentanone, yielding methyl 1-(phenylmethyl)-4-[3-(trifluoromethyl)phenylamino]-4-piperidinecarboxylate; mp. 120.4° C.

reactant | 1-(phenylmethyl)-4-[3-(trifluoromethyl)phenylamino]-4-piperidinecarboxylic acid | C1(=CC=CC=C1)CN1CCC(CC1)(C(=O)O)NC1=CC(=CC=C1)C(F)(F)F | C20H21F3N2O2
reactant | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | IC | CH3I
solvent | Methylbenzene | CC1=CC=CC=C1 | C7H8
product | methyl 1-(phenylmethyl)-4-[3-(trifluoromethyl)phenylamino]-4-piperidinecarboxylate | C1(=CC=CC=C1)CN1CCC(CC1)(C(=O)OC)NC1=CC(=CC=C1)C(F)(F)F | C21H23F3N2O2
